US07196099B2
Dess Martin Periodinane (0.688 g, 1.62 mmol) was added to a solution of the [(R)-2-cyclopropylmethanesulfonyl-1-(2,6-dihydroxy-cyclohexylcarbamoyl)-ethyl]-amide (0.32 g) in DCM (10 mL) and the mixture was stirred at room temperature for 3 hours then treated with resin bound Na2S2O3 (1.5 mmol/g, 1.9 g) and stirred at room temperature for a further 24 hours. The reaction mixture was diluted with DCM (20 mL), then filtered. The filtrate was washed with a solution of 0.25 M Na2S2O3, then with saturated NaHCO3, then dried (MgSO4), and then evaporated under reduced pressure. The residue was subjected to column chromatography eluting with a mixture of ethyl acetate and heptane to give morpholine-4-carboxylic acid [(R)-2-cyclopropylmethanesulfonyl-1-(6-oxo-cyclohex-1-enylcarbamoyl)-ethyl]-amide. 1H NMR (CDCl3): 9.00 (s, 1H), 7.78 (t, 1H), 6.18 (d, 1H), 4.9 (m, 1H), 3.85 (m, 1H), 3.77–3.62 (m, 4H), 3.58–3.45 (dd, 1H), 3.48–3.36 (m, 4H), 3.0 (d, 2H), 2.55–2.42 (m, 4H), 2.08–1.97 (m, 2H), 1.2 (m, 1H), 0.8–0.7 (m, 2H), 0.6–0.4 (m, 2H). MS: 414 (MH+).

reactant | Dess Martin Periodinane | 1.62 mmol, 0.688 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | [(R)-2-cyclopropylmethanesulfonyl-1-(2,6-dihydroxy-cyclohexylcarbamoyl)-ethyl]-amide | 0.32 g | C1(CC1)CS(=O)(=O)C[C@@H](C(NC1C(CCCC1O)O)=O)[NH-]
reactant | Na2S2O3 | 1.9 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | morpholine-4-carboxylic acid [(R)-2-cyclopropylmethanesulfonyl-1-(6-oxo-cyclohex-1-enylcarbamoyl)-ethyl]-amide | C1(CC1)CS(=O)(=O)C[C@@H](C(NC1=CCCCC1=O)=O)NC(=O)N1CCOCC1 | C18H27N3O6S
